US05753664
7-(4-(4-Chlorobenzoyl)benzyl)-2,6-diethoxypurine
To a solution of 7-(4-(4-chlorobenzoyl)benzyl)-2,6-dichloropurine (1.12 g) in ethanol (30 ml) was added sodium ethoxide (1.83 g) and the mixture was stirred at room temperature for 96 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate and the solvent was distilled off. The residue was washed with ether and hexane to provide the title compound (0.78 g, 67%) as colorless powder. 1H-NMR (CDCl3) δ: 1.34(3H,t,J=7.OHz), 1.50(3H,t,J=7.OHz), 4.50(2H,q,J=7.OHz), 4.55(2H,q,J=7.OHz), 5.53(2H,s), 7.25-7.80(8H,m), 7.98(1H,s).

reactant | 7-(4-(4-chlorobenzoyl)benzyl)-2,6-dichloropurine | 1.12 g | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=NC(=NC(=C34)Cl)Cl)C=C2)C=C1 | C19H11Cl3N4O
reactant | sodium ethoxide | 1.83 g | [O-]CC.[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 7-(4-(4-Chlorobenzoyl)benzyl)-2,6-diethoxypurine | 0.78 g, 67% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=NC(=NC(=C34)OCC)OCC)C=C2)C=C1 | C23H21ClN4O3
